US07700782B2
i) Benzyl [2-(cyclohexyl {N-[2-(3,5-difluorophenyl)ethyl]-β-alanyl}amino)ethyl][2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]carbamate
Benzyl {2-[acryloyl(cyclohexyl)amino]ethyl}[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]carbamate prepared as in Example 12 step i) (0.33 g), triethylamine (0.176 mL) and 3,5-difluorophenethylamine hydrochloride (0.244 g) were stirred in ethanol (3 mL) at 60° C. for 44 h. The mixture was cooled to room temperature, quenched with water (30 mL), extracted with ethyl acetate (50 mL), the organic extracts washed with brine, dried (Na2SO4), filtered and evaporated in vacuo. The residue was purified by flash silica chromatography with 10% methanol/dichloromethane as eluent. The pure fractions were evaporated to dryness to afford the sub-title product (0.35 g) as a colourless gum.

reactant | Benzyl {2-[acryloyl(cyclohexyl)amino]ethyl}[2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]carbamate | C(C=C)(=O)N(CCN(C(OCC1=CC=CC=C1)=O)CCC1=CC=C(C=2NC(SC21)=O)O)C2CCCCC2 | C28H33N3O5S
reactant | triethylamine | 0.176 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-difluorophenethylamine hydrochloride | 0.244 g | Cl.FC=1C=C(CCN)C=C(C1)F
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | Benzyl [2-(cyclohexyl {N-[2-(3,5-difluorophenyl)ethyl]-β-alanyl}amino)ethyl][2-(4-hydroxy-2-oxo-2,3-dihydro-1,3-benzothiazol-7-yl)ethyl]carbamate | 0.35 g | C1(CCCCC1)N(CCN(C(OCC1=CC=CC=C1)=O)CCC1=CC=C(C=2NC(SC21)=O)O)C(CCNCCC2=CC(=CC(=C2)F)F)=O | C36H42F2N4O5S
